US07541372B2
2-(4-Difluoromethoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 4-difluoromethoxy-benzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 85 mg, 25%) which was obtained as a white solid. MS: m/e=369.9 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 4-difluoromethoxy-benzoic acid | FC(OC1=CC=C(C(=O)O)C=C1)F | C8H6F2O3
product | 2-(4-Difluoromethoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 85 mg, 25% | FC(OC1=CC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)F | C19H13F2N3O3
